US07855218B2
Description 33: Ethyl (2R)-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-5-oxo-5-{4-[(phenylmethyl)oxy]phenyl}pentanoate (D33)
The title compound was synthesized (2.9 g, 16%) following a similar procedure as set out earlier in Description 6 starting from 1-(1,1-dimethylethyl) 2-ethyl (2R)-5-oxo-1,2-pyrrolidinedicarboxylate (D32, 10.5 g 40.8 mmol) and 4-iodophenyl phenylmethyl ether (13.34 g, 43 mmol); Rt (HPLC): 6.37 min; MS: (ES/+) 464 m/z: [M+Na+], C25H31NO6 requires 441; 1H NMR (400 MHz, DMSO-d6) δ (ppm): 7.92 (d, 2H); 7.29-7.45 (m, 5H); 6.99 (d, 2H); 5.18 (bs, 1H); 5.12 (s, 2H); 4.29-4.4 (bm, 1H); 4.20 (q, 2H); 2.94-3.16 (m, 2H); 2.22-2.33 (m, 1H); 2.00-2.15 (m, 1H); 1.39 (s, 9H); 1.28 (t, 3H).

reactant | 1-(1,1-dimethylethyl) 2-ethyl (2R)-5-oxo-1,2-pyrrolidinedicarboxylate | 40.8 mmol, 10.5 g | O=C1CC[C@@H](N1C(=O)OC(C)(C)C)C(=O)OCC | C12H19NO5
reactant | 4-iodophenyl phenylmethyl ether | 43 mmol, 13.34 g | C1(=CC=CC=C1)COC1=CC=C(C=C1)I | C13H11IO
product | Ethyl (2R)-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-5-oxo-5-{4-[(phenylmethyl)oxy]phenyl}pentanoate | CC(C)(C)OC(=O)N[C@@H](C(=O)OCC)CCC(C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C25H31NO6
